US05637554
A mixture of 35.2 ml of 98.9% strength sulfuric acid with 35.2 ml of 99% strength nitric acid was added dropwise at from +5° to 10° C. to a solution of 15.6 g (0.08 mol) of 4-methyl-5H-indeno[3,2-b]-pyridin-5-one in 35.2 ml of conc. sulfuric acid in the course of 1 hour. After stirring at 25° C. for 14 hours and additionally stirring at 70° C. for 4 hours, the mixture was cooled to 20° C., stirred into 500 g of ice and brought to pH 10 with a 50% strength aqueous sodium hydroxide solution. The mixture was extracted with ethyl acetate, the combined extracts were concentrated under reduced pressure and the residue was crystallized at +10° C. using 30 ml of ether. 13 g (67% of theory) of 4-methyl-7-nitro-5H- indeno[3,2-b]pyridin-5-one were obtained as yellow crystals of m.p. 225°-227° C.

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 4-methyl-5H-indeno[3,2-b]-pyridin-5-one | 0.08 mol, 15.6 g | CC1=C2C(=NC=C1)C=1C=CC=CC1C2=O | C13H9NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 35.2 ml | S(O)(O)(=O)=O | H2O4S
product | 4-methyl-7-nitro-5H- indeno[3,2-b]pyridin-5-one | 13 g, 67% | CC1=C2C(=NC=C1)C=1C=CC(=CC1C2=O)[N+](=O)[O-] | C13H8N2O3
